US03984415
2.8 g of 1-(m-nitrophenyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione was dissolved in 30 ml of dry dimethylformamide. To this was added 4.2 g of trimethyl phosphate and the mixture was refluxed for 6 hours. After the reaction was complete, the solvent was distilled off from the mixture, and to the residue obtained was added water to precipitate a crude product. The product was recrystallized from acetone to yield 2.5 g of 1-(m-nitrophenyl)-3-methylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione as pale yellow prisms, melting at 234°-235°C.

reactant | 1-(m-nitrophenyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 2.8 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(NC(C2=C1N=CC=C2)=O)=O | C13H8N4O4
reactant | trimethyl phosphate | 4.2 g | P(=O)(OC)(OC)OC | C3H9O4P
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(m-nitrophenyl)-3-methylpyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 2.5 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=C1N=CC=C2)=O)C)=O | C14H10N4O4
